US06204297B1
Ethylenedithio-bislauryl alcohol was prepared as the final intermediate as ethylenedithio-bislauric acid methyl ester (8 g) was dissolved in dry THF at 0° C. (ice bath). Lithium aluminum hydride (1.16 g) was added to the flask slowly. Hydrogen was generated, and the reaction temperature was gradually raised to 30° C. After stirring for 4 hours, the reaction was quenched by pouring the solution thus formed into ice water. The aqueous solution was neutralized by adding concentrated HCl, and the crude product was then extracted with ethyl acetate three times. After evaporating the solvents, the compound (7.0 gm) was dried under vacuum and analyzed by NMR. NMR data agrees with the expected structure of the final product as set forth in the reaction summary below.

reactant | ethylenedithio-bislauric acid methyl ester | 8 g | COC(CCCCCCCCCCCSCCSCCCCCCCCCCCC(=O)O)=O | C27H52O4S2
reactant | Lithium aluminum hydride | 1.16 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Hydrogen | [H][H] | H2
solvent | THF | C1CCOC1 | C4H8O
product | Ethylenedithio-bislauryl alcohol | C(CSCCCCCCCCCCCCO)SCCCCCCCCCCCCO | C26H54O2S2
